US08084620B2
Step 1 A mixture of 6-bromo-1H-indole (0.25 g, 1.275 mmol), 4-fluorophenylboronic acid (0.178 g, 1.275 mmol), and 2 M aqueous sodium carbonate (2.0 mL, 4.00 mmol) in toluene (10 mL) and ethanol (2.500 mL) was purged with argon and treated with tetrakis(triphenylphosphine)palladium (0.074 g, 0.064 mmol). The mixture was heated at 90° C. After 17 h, the mixture was cooled to rt and partitioned between water and EtOAc. The organic phase was dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from 95:5 to 60:40 hexane-EtOAc) to provide 6-(4-fluorophenyl)-1H-indole as a white solid (175.5 mg, 65%). 1H NMR (400 MHz, DMSO-d6) δ 11.17 (1H, br. s.), 7.65-7.71 (2H, m), 7.56-7.62 (2H, m), 7.37 (1H, t, J=2.9 Hz), 7.22-7.31 (3H, m), 6.44 (1H, t, J=2.0 Hz). Mass spectrum m/z 212.2 (M+H)+.

reactant | 6-bromo-1H-indole | 1.275 mmol, 0.25 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | 4-fluorophenylboronic acid | 1.275 mmol, 0.178 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 4.00 mmol, 2 M, 2.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.500 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.064 mmol, 0.074 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-fluorophenyl)-1H-indole | 175.5 mg, 65% | FC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C14H10FN
